US06165941
2-[3-Amino-4-(1-methylethylamino)phenyl]-3-chloro-5-trifluoromethylpyridine
In a similar manner to the preparation of 3-chloro-2-(3-amino-4-hydroxyphenyl)-5-trifluoromethylpyridine described above, 46.1 g of 3-chloro-2-[4-(1-methylethylamino)-3-nitro-phenyl]-5-trifluoromethylpyridine and 21.5 g of iron powder gave 39.1 g (93%) of colorless crystals; m.p.: 116-117° C.

reactant | 3-chloro-2-(3-amino-4-hydroxyphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)O)N | C12H8ClF3N2O
reactant | 3-chloro-2-[4-(1-methylethylamino)-3-nitro-phenyl]-5-trifluoromethylpyridine | 46.1 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)NC(C)C)[N+](=O)[O-] | C15H13ClF3N3O2
catalyst | iron | 21.5 g | [Fe] | Fe
product | 2-[3-Amino-4-(1-methylethylamino)phenyl]-3-chloro-5-trifluoromethylpyridine | 39.1 g, 93% | NC=1C=C(C=CC1NC(C)C)C1=NC=C(C=C1Cl)C(F)(F)F | C15H15ClF3N3
